US07906652B2
Step 10 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzoic acid
A mixture of 5.52 g (10.4 mmol) of 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzonitrile, 65 mL of EtOH, and 40 mL of 5N NaOH was heated to reflux for 4 h (with monitoring by HPLC). Then the pH solution was adjusted to 4-5 with 12N HCl and the solution was concentrated to remove organic solvents. The residue was dissolved in 200 mL of CH2Cl2 and filtered to remove undissolved solid. The solid residue was triturated with two 200 mL portions of CH2Cl2 and the combined organic layers were concentrated to the title compound as white solid; Mass Spectrum: m/e=548, (M+1, 35Cl 79Br), 550 (M+1, 37Cl79Br/35Cl 81Br), 552 (M+1, 37Cl 81Br).

reactant | 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzonitrile | 10.4 mmol, 5.52 g | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C27H24BrClF2N2
reactant | NaOH | 5N, 40 mL | [OH-].[Na+]
reactant | HCl | 12N | Cl | ClH
reactant | EtOH | 65 mL | CCO | C2H6O
product | 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzoic acid | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C27H25BrClF2NO2
